US04490527
N-[2-[[[5-[(dimethylamino)methyl]2-furanyl]methyl]thio]ethyl]-1,2-benzisothiazol-3-amine 1,1-dioxide
To a refluxing solution of 2.14 g (10 mmol) of 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine in 150 ml of chloroform is added incrementally 2.02 g (10 mmol) of 3-chlorobenzisothiazole 1,1-dioxide. The reaction mixture is refluxed for an additional 30 minutes, is cooled to room temperature and then solvent is removed on a rotoevaporator. The resulting oil is subjected to preparative column chromatography on silica gel. Elution with methylene chloride followed by methylene chloride: methanol (95:5) yields 420 mg (12%) of a white solid. The solid is suspended in ethyl ether, separated by suction filtration and dried in vacuo to give 270 mg (7%) of the title compound: m.p. 91-94.C.

reactant | 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine | 10 mmol, 2.14 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 3-chlorobenzisothiazole 1,1-dioxide | 10 mmol, 2.02 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-[[[5-[(dimethylamino)methyl]2-furanyl]methyl]thio]ethyl]-1,2-benzisothiazol-3-amine 1,1-dioxide | 420 mg, 12% | CN(C)CC1=CC=C(O1)CSCCNC1=NS(C2=C1C=CC=C2)(=O)=O | C17H21N3O3S2
